US04822375
Preparation of the compound No. 26 of Table I (6-Hexadecyloxy-5-methoxyindole)
6-Hydroxy-5-methoxyindole (2 g; 0.0123 mole) dissolved in 10 ml of dimethylformamide (DMF) is introduced dropwise in the course of 20 minutes into a mixture of 1-bromohexadecane (4.5 g; 0.0148 mole) and potassium carbonate (1.87 g; 0.0135 mole) in 45 ml of DMF at 70° C. and under nitrogen. The reaction mixture is stirred under nitrogen at 80° C. for 3 and a half hours. The blackish mixture is poured into ice-cold water with stirring and the brownish solid formed is immediately filtered off and washed with water. It is taken up in dichloromethane and dried over sodium sulphate. After chromatography on silica 60 (eluent: toluene/CH2Cl2, 50:50), and recrystallization in hexane, the derivative 26 is obtained (1.66 g; 35% yield).

reactant | 6-Hydroxy-5-methoxyindole | 0.0123 mole, 2 g | OC1=C(C=C2C=CNC2=C1)OC | C9H9NO2
reactant | 1-bromohexadecane | 0.0148 mole, 4.5 g | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | potassium carbonate | 0.0135 mole, 1.87 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | DMF | 45 ml | CN(C=O)C | C3H7NO
product | 6-Hexadecyloxy-5-methoxyindole | 35% yield | C(CCCCCCCCCCCCCCC)OC1=C(C=C2C=CNC2=C1)OC | C25H41NO2
